US04209448
A. 2-(4-Chlorophenyl)-5-(2-nitro-1-propenyl)furan
A mixture of 82 g (0.4 mole) of 5-(p-chlorophenyl)-2-furaldehyde in 400 ml of nitroethane together with 4 ml of piperidine was heated at reflux for 2 hours.

reactant | 5-(p-chlorophenyl)-2-furaldehyde | 0.4 mole, 82 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7ClO2
reactant | piperidine | 4 ml | N1CCCCC1 | C5H11N
reactant | nitroethane | 400 ml | [N+](=O)([O-])CC | C2H5NO2
product | 2-(4-Chlorophenyl)-5-(2-nitro-1-propenyl)furan | ClC1=CC=C(C=C1)C=1OC(=CC1)C=C(C)[N+](=O)[O-] | C13H10ClNO3
